US05798311
a: 2-methoxy-4'-chloroacetophenone
To 25 g (281 mmole) of methoxyacetonitrile in 100 ml of diethyl ether at reflux was added 250 ml (250 mmole) of 1.0M 4-chlorophenyl magnesium bromide in diethyl ether. After refluxing for 30 minutes the reaction mixture was hydrolyzed with a solution of 30 ml of concentrated sulfuric acid in 100 ml of water. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, concentrated in vacuo, and dissolved in hexanes. The insolubles were filtered away and the resultant solution was concentrated and distilled yielding a clear liquid. bp 105°-115° C. at 1 torr. The oil solidified on standing.

reactant | methoxyacetonitrile | 281 mmole, 25 g | COCC#N | C3H5NO
reactant | 4-chlorophenyl magnesium bromide | 250 mmole, 1.0M, 250 ml | ClC1=CC=C(C=C1)[Mg]Br
reactant | sulfuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | water | 100 ml | O | H2O
product | 2-methoxy-4'-chloroacetophenone | COCC(=O)C1=CC=C(C=C1)Cl | C9H9ClO2
